US07473797B2
5-(4-Amino-phenyl)-pent-2-en-4-ynoic acid ethyl ester (Table 2, entry 6):
The general procedure was used to convert 4-Ethynyl-phenylamine and (Z)-ethyl-3-iodoacrylate to the title product. Purification by flash chromatography (30% ethyl acetate in hexane as the eluent) gave the analytically pure product as a light yellow oil (350 mg, 90% yield). 1H NMR (400 MHz, CDCl3) δ 7.34-7.32 (d, J=8.4, 2H), 6.60-6.58 (d, J=8.4, 2H), 6.36-6.34 (d, J=11.4, 1H), 6.05-6.02 (d, J=11.4, 1H), 4.28-4.23 (q, J=7.1, 2H), 3.96 (s, 2H), 1.35-1.31 (t, J=7.1, 3H). 13C NMR(100 MHz, CDCl3) δ 165.21, 148.01, 133.78, 125.92, 123.66, 114.54, 111.33, 103.46, 85.59, 60.28, 14.32. Anal. Calcd. for C13H13NO2: C, 72.54; H, 6.09; N, 6.51; Found C, 72.63; H, 6.26; N, 6.32.

reactant | 4-Ethynyl-phenylamine | C(#C)C1=CC=C(C=C1)N | C8H7N
reactant | (Z)-ethyl-3-iodoacrylate | C(C)OC(\C=C/I)=O | C5H7IO2
product | 5-(4-Amino-phenyl)-pent-2-en-4-ynoic acid ethyl ester | C(C)OC(C=CC#CC1=CC=C(C=C1)N)=O | C13H13NO2
